US06515179B2
4-Nitrobenzenesulfonyl chloride (2.51 g) was added to a methylene chloride solution (30 ml) containing benzhydrylamine (2.12 g) and triethylamine (1.62 g) under ice cooling, followed by stirring for 3 hours under ice cooling and for 69 hours at room temperature. Water (30 ml), 1 N hydrochloric acid (12 ml) and methylene chloride (5 ml) were added to the reaction mixture, followed by extraction and solution separation, and the aqueous layer was extracted again with methylene chloride (10 ml). The resulting extract was concentrated, and ethyl acetate (80 ml) and water (50 ml) were further added, followed by solution separation. The organic layer was washed in turn with saturated aqueous solution of sodium bicarbonate (10 ml) and water (25 ml), and concentrated. The resulting solid was washed with a mixed solution of ether (9 ml)/hexane (20 ml) and successively with hexane (10 ml), and dried under vacuum to obtain N-(4-nitrobenzenesulfonyl)benzhydrylamine (3.81 g; yield: 91.3%).

reactant | 4-Nitrobenzenesulfonyl chloride | 2.51 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | benzhydrylamine | 2.12 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N | C13H13N
reactant | hydrochloric acid | 1 N, 12 ml | Cl | ClH
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | Water | 30 ml | O | H2O
solvent | triethylamine | 1.62 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | N-(4-nitrobenzenesulfonyl)benzhydrylamine | 3.81 g, yield: 91.3% | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)NC(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16N2O4S
